US07858623B2
In a 25 mL sealed tube under N2, were dissolved 4-chloro-7-methoxyquinoline (1.00 g, 5.16 mmol), thiophenol (0.528 ml, 5.16 mmol) and cesium carbonate (2.52 g, 7.75 mmol) in 5 mL of DMSO then heated at 100° C. After 2 h, the crude reaction mixture was directly purified by MPLC (ISCO, dichloromethane:MeOH 100:0 to 90:10) to afford 7-methoxy-4-(phenylthio)quinoline (1.32 g, 95.6% yield) as an off-white solid. MS (ESI pos. ion) m/z: 268 (MH+). Calc'd exact mass for C16H13NOS: 267. 1H NMR (400 MHz, CDCl3): 8.49 (d, J=4.93 Hz, 1H), 8.13 (d, J=9.22 Hz, 1H), 7.56-7.62 (m, 2H), 7.45-7.53 (m, 4H), 7.23-7.29 (m, 1H), 6.68 (d, J=4.93 Hz, 1H), 3.98 (s, 3H).

reactant | 4-chloro-7-methoxyquinoline | 5.16 mmol, 1.00 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | thiophenol | 5.16 mmol, 0.528 ml | C1(=CC=CC=C1)S | C6H6S
reactant | cesium carbonate | 7.75 mmol, 2.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 7-methoxy-4-(phenylthio)quinoline | 1.32 g, 95.6% yield | COC1=CC=C2C(=CC=NC2=C1)SC1=CC=CC=C1 | C16H13NOS
